US07247645B2
1) Synthesis of 5,5-diphenylpentanol:
10 ml of methanol was added to a mixture of 320 mg (1.34 mmol) of 5,5-diphenyl-2-pentene-1-ol and a catalytic amount of 10% palladium/carbon, and they were stirred in hydrogen atmosphere at room temperature under ambient pressure for 12 hours. The catalyst was filtered out and the obtained filtrate was concentrated under reduced pressure to obtain the unpurified title compound.

reactant | methanol | 10 ml | CO | CH4O
reactant | 5,5-diphenyl-2-pentene-1-ol | 1.34 mmol, 320 mg | C1(=CC=CC=C1)C(CC=CCO)C1=CC=CC=C1 | C17H18O
solvent | hydrogen | [H][H] | H2
catalyst | palladium/carbon | [Pd] | Pd
product | 5,5-diphenylpentanol | quantitative yield | C1(=CC=CC=C1)C(CCCCO)C1=CC=CC=C1 | C17H20O
